US07943609B2
(11S)-6-Amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-yl pyrrolidine-1-carboxylate
A solution of (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (500 mg, 1.85 mmol) dissolved in 15 mL of DMF was treated with cesium carbonate (1.80 g, 5.55 mmol) and pyrrolidinecarbonyl chloride (275 mg, 2.03 mmol). After stirring overnight at ambient temperature, the light brown mixture was poured into 150 mL of H2O and stirred for 30 minutes. The reaction mixture was extracted with CHCl3 (3×75 mL) and the combined extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give a brown solid. Chromatography (SiO2, 0-20% CMA/CHCl3) gave an off-white solid which was crystallized from acetonitrile to give 122 mg of the title compound as an off-white solid, mp 218-219° C.

reactant | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 1.85 mmol, 500 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
reactant | cesium carbonate | 5.55 mmol, 1.80 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidinecarbonyl chloride | 2.03 mmol, 275 mg | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (11S)-6-Amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-yl pyrrolidine-1-carboxylate | 122 mg | N1(CCCC1)C(=O)OC=1C=C2C3=C(C(=NC2=CC1)N)N=C1N3[C@H](COC1)C | C19H21N5O3
